US07745630B2
Preparation 3: 1-(3-Chloro-benzoyl)-piperidine-4-carboxylic acid ethyl ester
A solution of ethyl isonipecotate (27.6 g, 175 mmol) in dichloromethane (50 ml) was added dropwise over 10 minutes to a solution of 3-chlorobenzoyl chloride (20 ml, 160 mmol) and triethylamine (28 ml, 200 mmol) in dichloromethane (500 ml) cooled to between 10 and 15° C. The reaction was then stirred at room temperature for 3 hours and concentrated under reduced pressure. The residue was diluted with ether, the solution washed with 1N hydrochloric acid, sodium carbonate solution (×3) and brine. It was then dried over MgSO4 and evaporated under reduced pressure, to give the title compound as a solid, 44.49.

reactant | ethyl isonipecotate | 175 mmol, 27.6 g | N1CCC(C(=O)OCC)CC1 | C8H15NO2
reactant | 3-chlorobenzoyl chloride | 160 mmol, 20 ml | ClC=1C=C(C(=O)Cl)C=CC1 | C7H4Cl2O
reactant | triethylamine | 200 mmol, 28 ml | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 50 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 500 ml | ClCCl | CH2Cl2
product | 1-(3-Chloro-benzoyl)-piperidine-4-carboxylic acid ethyl ester | C(C)OC(=O)C1CCN(CC1)C(C1=CC(=CC=C1)Cl)=O | C15H18ClNO3
